Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
 Possible seizure

 
Major Surgical or Invasive Procedure:
___ placement ___

 
History of Present Illness:
___ h/o alcohol abuse w/ h/o withdraw seizures who presents with 
tachycardia. 

Reportedly, EMS found him alert and oriented, not obviously 
post-ictal. ___ was noted not to have oral trauma or incontinence 
at that time. 

ROS is positive for nausea, constipation, intermittent bilateral 
chest wall pain that has been ongoing for years. Patient denies 
fevre, chills, cough, or diarrhea.

Initial vitals in the ED were: T: 98.9  HR: 155  BP: 132/88  RR: 
18  SpO2 99% 15L.

Labs were notable for:
-Lactate 8.6 on arrival and decreased to 2.2 with 2L NS
-WBC 10.8  with 90% neutrophils, hemoglobin 10.4 (baseline 
unclear, but was 11.4 in ___, magnesium 1.3, bicarbonate 16 
with anion gap 25.
-Urinalysis was notable for 10 ketones.
-Tox screen was positive for TCAs, but negative otherwise, 
including alcohol level.

An ECG was checked and QRS was 90 ms.

___ was given diazepam 10mg IV x3, lorazepam ___ IV x1, folate 
1mg, thiamine 500mg.

Upon arrival to the ICU, the patient notes ___ had a seizure this 
morning that lasted for about 1 minute with jerking movements in 
his arms and some sense of confusion that set in. ___ notes that 
___ fell to the floor and became disoriented. ___ is unsure about 
whether ___ hit his head on the floor and notes the back of his 
head is a bit sore. ___ notes that ___ last drink was yesterday 
and that ___ drinks ___ of vodka during the day, ___ pint at 
night, and sometimes up to 1 gallon. ___ also notes that ___ has 
not had full meal to drink over the last 2 weeks but rather 
substitutes alcohol for meals. ___ does endorse vomitting last 
week, diarrhea over the last few days that has now resolved with 
subsequent constipation. ___ notes that ___ has been taking ___ 
tabs of remeron, ___ tabs of amitryptiline, and ___ tabs of 
allegra over the last week for their sedating effects and to 
"prevent" seizures. ___ notes his psychiatris is Dr. ___ 
at ___. 

___ notes has has been using alcohol since age ___ and that his 
use is mostly driven by anxiety. ___ notes ___ had been sober in 
___ when ___ was in jail but unable to maintain sobriety 
otherwise. ___ notes that ___ feels ___ needs to quit.

REVIEW OF SYSTEMS:  
(+) Per HPI  
(-) Denies fever, chills, night sweats, recent weight loss or 
gain. Denies headache, sinus tenderness, rhinorrhea or 
congestion. Denies cough, shortness of breath. Denies nausea, 
diarrhea, or abdominal pain. No recent change in bowel or 
bladder habits. No dysuria. Denies arthralgias or myalgias.  

 
Past Medical History:
Alcohol Dependence
History of severe withdrawals with Delerium Tremens/Seizures
Bipolar Disorder
Anxiety Disorder
Peripheral Neuropathy
Hypertension
 

 
Social History:
___
Family History:
No family history of alcohol use, heart or lung problems.

 
Physical Exam:
PHYSICAL EXAM ON ADMISSION:
============================
VITAL SIGNS: afebrile, HR 98, BP 148/98, RR 20, 99% RA
GENERAL: Alert, oriented, no acute distress, minimal tremor, 
difficulty recalling detaled information 
HEENT: Sclera anicteric, dry appearing mucous membranes, poor 
dentition, linear scar on right temple well-healed, no evidence 
of laceration or bruise on head 
LUNGS: Clear to auscultation bilaterally, no wheezes, rales, 
ronchi  
CV: Regular rate and rhythm, no murmurs/rubs/gallops
ABDOMEN: soft, non-tender, non-distended, bowel sounds present, 
no rebound tenderness or guarding, no organomegaly  
GU: no foley
EXTR: warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema
NEURO: CN II-XII intact
SKIN: warm, dry, no rashes or lesions 

PHYSICAL EXAM ON DISCHARGE:
===========================
Patient agitated though walking without difficulty and fully 
oriented. Voiced understanding of risks of leaving against 
medical advice including seizure, renal failure, and death.

 
Pertinent Results:
LABS ON ADMISSION:
==================
___ 03:35PM BLOOD WBC-10.8# RBC-3.37* Hgb-10.4* Hct-29.5* 
MCV-87 MCH-30.7 MCHC-35.2* RDW-16.3* Plt ___
___ 03:35PM BLOOD Neuts-90.4* Lymphs-5.3* Monos-3.5 Eos-0.4 
Baso-0.3
___ 03:35PM BLOOD ___ PTT-23.4* ___
___ 03:35PM BLOOD Glucose-116* UreaN-11 Creat-0.9 Na-141 
K-3.6 Cl-100 HCO3-16* AnGap-29*
___ 03:35PM BLOOD ALT-16 AST-27 CK(CPK)-1217* AlkPhos-79 
TotBili-0.4
___ 03:35PM BLOOD Albumin-3.6 Calcium-8.1* Phos-3.1 Mg-1.3*
___ 05:49PM BLOOD Lactate-2.2*
___ 03:50PM BLOOD Lactate-8.6*

LABS ON DISCHARGE:
===================
___ 02:46AM BLOOD WBC-7.3 RBC-3.49* Hgb-10.0* Hct-30.3* 
MCV-87 MCH-28.8 MCHC-33.1 RDW-16.4* Plt ___
___ 03:35PM BLOOD Neuts-90.4* Lymphs-5.3* Monos-3.5 Eos-0.4 
Baso-0.3
___ 10:39PM BLOOD UreaN-9 Creat-0.7 Na-139 K-3.5 Cl-103 
HCO3-26 AnGap-14
___ 01:38PM BLOOD CK(CPK)-8112*
___ 04:25AM BLOOD CK-MB-5 cTropnT-<0.01
___ 10:39PM BLOOD Calcium-7.5* Phos-2.2* Mg-1.6
___ 01:38PM BLOOD Phenoba-11.4
___ 05:25AM BLOOD Lactate-0.9

STUDIES:
========
CXR ___:
IMPRESSION:  
As compared to the previous radiograph, no relevant change is 
seen. The lung volumes are low. Normal size of the cardiac 
silhouette. Mild elongation of the descending aorta. No 
pneumonia, no pulmonary edema. No pleural effusion. 

 
Brief Hospital Course:
___ male with current alcohol abuse, depression, anxiety, and 
history of withdrawal seizures who presented with a report of 
seizure at home found to have alcohol withdrawal and anion gap 
metabolic acidosis.

# Alcohol withdrawal: 
Patient with history of alcohol withdrawal seizures and severe 
alcohol withdrawal. Last drink ___ per patient's report with 
seizure on morning of ___. Patient's transaminiases were not 
elevated this hospital course though they were elevated during 
last admission for alcohol withdrawal. Patient noted to have 
elevated lacate and CK on admission concerning for seizure 
activity. Patient noted questionable head strike at time of 
seizure though imaging was deferred given patient's normal 
neurologic exam at time of admission. Patient started on 
phenobarb protocol at time of admission. ___ subsequently left 
the ICU against medical advice and voiced understanding of the 
risks of leaving including seizures, death, and renal failure 
from rhabdomyolysis. 

# Rhabdomyolysis: Patient presented with CK of ___ concerning 
for muscle break down. Etiology was thought to be secondary to 
withdrawal seizure. His Creatinine was stable. ___ was given 
aggressive IVF hydration and his renal function was trended 
daily. ___ subsequently left the ICU against medical advice and 
voiced understanding of the risks of leaving including seizures, 
death, and renal failure from rhabdomyolysis.

# Anion gap metabolic acidosis: Anion gap 25 on admission. 
Lactate was 8.6 with urine ketones consisent with starvation 
ketosis vs alcoholic ketosis. Lactate improved to 2.2 with 3L 
IVF and improved to normal range prior to transfer out of the 
ICU. Still, this does not explain his entire anion gap. Other 
possibilties are ingestion given concern for seizure-activity. 
Though patient notes ___ has been taking excessive amounts of his 
home medications his EKG is without concerning signs such as 
prolonged QRS or QTc. ___ was aggressively volume repleted with 
normlization in lactic acidosis.

# Alcohol abuse: 
Patient reported prolonged alcohol abuse history since age ___. 
Patient was counseled to abstain from alcohol and social work 
consulted to provide a list of community resources for alcohol 
cessation.  Patient continued on thiamine, folate, and 
multivitamin. ___ subsequently left the ICU against medical 
advice and voiced understanding of the risks of leaving 
including seizures, death, and renal failure from 
rhabdomyolysis. Close follow up with psychiatrist Dr. ___ at 
___ recommended upon follow up.

# Nausea/Vomiting
Patient noted nausea and vomiting over the last week before 
admission with prior diarrhea that resolved prior to time of 
admission. This may represent a viral gastroenteritis vs. 
alcohol induced gastritis. Amylase and lipase were normal on 
admission. 

# TCA Ingestion: Positive TCA levels on toxicology screen per 
patient's report has been taking multiple tablets of his TCA 
though total cumalative dose not that high. In addition QRS 
interval on EKG remained stable and patient did not have any 
clinical features of TCA intoxication including conduction 
abnormalities or hypotension. 

CHRONIC ISSUES:
# Chest pain: Patient noted chest pain ongoing for ___ years. 
Troponin, CK-MB, and  EKG were normal.  
# Normocytic Anemia: Chronic and ongoing. Felt to be due to 
nutritional deficiencies given alcoholism. H/H trended and 
remained stable
# Nutrition: Patient is a risk for refeeding syndrome given his 
malnutrition. Patient monitored on telemtry and electrolytes 
repleted PRN.
# Depression/Anxiety/Bipolar Disorder: Amitryptiline and 
mirtazapine held initially with plan to be restarted at time of 
discharge.
# Hypertension: Lisnopril and HCTZ held in setting of rhabdo. 
# Neuropathy: continued cymbalta

TRANSITIONAL:
=================
- ___ left the ICU against medical advice and voiced 
understanding of the risks of leaving including seizures, death, 
and renal failure from rhabdomyolysis. 
- Recommended for patient to have close follow up with 
psychiatrist Dr. ___ at ___ upon discharge
- Full code
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Amitriptyline 25 mg PO BID 
2. Mirtazapine 15 mg PO QHS 
3. Fexofenadine 60 mg PO Frequency is Unknown 
4. Lisinopril 10 mg PO DAILY 
5. Hydrochlorothiazide 25 mg PO DAILY 
6. Duloxetine 20 mg PO DAILY 

 
Discharge Medications:
1. Amitriptyline 25 mg PO BID 
2. Duloxetine 20 mg PO DAILY 
3. Hydrochlorothiazide 25 mg PO DAILY 
4. Lisinopril 10 mg PO DAILY 
5. Mirtazapine 15 mg PO QHS 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Alcohol withdrawal with seizure

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Mr. ___,

You were admitted to the hospital because you had an alcohol 
withdrawal seizure. You were admitted to the intensive care unit 
amd started on a medication called phenobarbital to prevent 
withdrawal seizures. You also had evidence of muscle breakdown 
and we recommended continued hospitalization and IV hydration. 
You decided to leave the hospital against medical advice 
understanding the risk of seizure, kidney failure from muscle 
breakdown, and death at the time you left. 
 
Followup Instructions:
___